US06310070B1
2.8 ml (20 mmol) triethylamine was added to and dissolved in a suspension of 4.4 g (20 mmol) of 4-chlorosulfonylbenzoic acid in dichloromethane. To the solution 3.1 ml of 40% aqueous solution of methylamine was added and stirred at room temperature overnight. After the reaction solution was concentrated under vacuum, the residue was dissolved in ethyl acetate-5% sodium hydrogencarbonate aqueous solution. The water layer was washed with ethyl acetate and adjusted to 2-3 pH with citric acid. The organic layer obtained by extracting the water layer with ethyl acetate was washed with distilled water, then with saturated brine, dried over anhydrous magnesium sulfate. This solution was concentrated under vacuum and the residue was crystallized from ethyl acetate-hexane to obtain 2.9 g of 4-methylaminosulfonylbenzoic acid (yield 67%).

reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorosulfonylbenzoic acid | 20 mmol, 4.4 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | methylamine | CN | CH5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-methylaminosulfonylbenzoic acid | 2.9 g, yield 67% | CNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H9NO4S
